US05359055
In 10 ml of dimethyl carbonate was dissolved 350 mg of 20-(1,3-dioxolan-2-yl)-1α-acetoxy-3β-(methoxymethyl)oxypregn-6-en-5α-ol, following by addition of 0.2 ml of acetic acid. The mixture was stirred in an atmosphere of argon gas at a temperature of 100° C. for 12 hours. The reaction mixture was then worked up in the same manner as Example 132 to give 130 mg of 20-(1,3-dioxolan-2-yl)-1α-acetoxy-3β-(methoxymethyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene showing the following physical properties.

reactant | 20-(1,3-dioxolan-2-yl)-1α-acetoxy-3β-(methoxymethyl)oxypregn-6-en-5α-ol | 350 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OCOC)O | C28H44O7
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | dimethyl carbonate | 10 ml | C(OC)(OC)=O | C3H6O3
product | 20-(1,3-dioxolan-2-yl)-1α-acetoxy-3β-(methoxymethyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene | 130 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OCOC)OC(=O)OC | C30H46O9
